US04895600
(Silicon Amino Phosphonate I)
To a 250 ml three neck flask fitted with a reflux condenser and dropping funnel is added deionized water, 70% phosphorous acid (0.038 mole), 37% aqueous formaldehyde (0.075 mole), HCl (2.5 grams), and H2SO4 (2.5 grams). This is stirred vigorously and heated to reflux. Then, 5.6 grams (0.025 moles) of N-2-aminoethyl-3-aminopropyltrimethoxysilane is added dropwise. The mixture is heated and stirred overnight. After the reaction cooled, a sample is neutralized with 50% sodium hydroxide.

reactant | phosphorous acid | 0.038 mole | P(O)(O)O | H3O3P
reactant | formaldehyde | 0.075 mole | C=O | CH2O
reactant | HCl | 2.5 grams | Cl | ClH
reactant | H2SO4 | 2.5 grams | OS(=O)(=O)O | H2O4S
reactant | N-2-aminoethyl-3-aminopropyltrimethoxysilane | 0.025 moles, 5.6 grams | NCCNCCC[Si](OC)(OC)OC | C8H22N2O3Si
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | Silicon Amino Phosphonate | P(ON)([O-])=O.[Si+4].NOP([O-])=O.NOP([O-])=O.NOP([O-])=O | InChI=1S/4H4NO3P.Si/c4*1-4-5(2)3;/h4*5H,1H2,(H,2,3);/q;;;;+4/p-4
